US08080541B2
Step 2: 2-Cyclopropyl-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 400 mg (1.413 mmol) 2-bromo-4-trifluoromethyl-benzoic acid methyl ester, 146 mg (1.696 mmol) cyclopropyl boronic acid, 1.21 g (4.946 mmol) tri-potassium phosphate monohydrate, 40.9 mg (0.141 mmol) tricyclohexyl phosphine in 6 ml toluene and 0.3 ml water under nitrogen at room temperature, was added 15.9 mg (0.0707 mmol) palladium acetate. The mixture was stirred in a 100° C. oil bath for 4 hours and overnight at room temperature under nitrogen. The mixture was cooled to room temperature. Water was added and the mixture extracted with ethyl acetate. The organic layer was washed once with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude compound was purified on silica gel (eluent: heptane/ethyl acetate 0 to 10%) to provide 0.24 g (71%) of the title compound as a yellow oil.

reactant | 2-bromo-4-trifluoromethyl-benzoic acid methyl ester | 1.413 mmol, 400 mg | COC(C1=C(C=C(C=C1)C(F)(F)F)Br)=O | C9H6BrF3O2
reactant | cyclopropyl boronic acid | 1.696 mmol, 146 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tri-potassium phosphate monohydrate | 4.946 mmol, 1.21 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexyl phosphine | 0.141 mmol, 40.9 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.3 ml | O | H2O
catalyst | palladium acetate | 0.0707 mmol, 15.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropyl-4-trifluoromethyl-benzoic acid methyl ester | 0.24 g, 71% | COC(C1=C(C=C(C=C1)C(F)(F)F)C1CC1)=O | C12H11F3O2
